US04528372
In 8 ml of DMF was dissolved 3.44 g of 1-acetyl-5-fluorouracil and 0.80 g of sodium hydride (60% content) was added to the stirred solution mentioned above under ice cooling. Then, a solution of 4.69 g of 3-bromophthalide in 7 ml of DMF was added dropwise to the mixture. After completion of the dropwise addition, the mixture was stirred for 3.5 hours at room temperature. Then, 100 ml of water was added to the mixture and the mixture was extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous sodium sulfate and then, the solvent was distilled off. The residue was washed twice with 25 ml each of n-hexane to obtain crude N1 -acetyl-N3 -phthalidyl-5-fluorouracil. To this product were added 50 ml of 0.05N hydrochloric acid and 50 ml of ethanol and the mixture was refluxed for 15 minutes. After the solvent was distilled off, water was added to the residue and the colorless crystal produced was collected by filtration. After washing with water and drying, the product was heated with 15 ml of chloroform under reflux for 3 minutes. After filtration while hot, there was obtained 2.65 g (50%) of colorless crystal. This was recrystallized from methanol to obtain colorless needles having a melting point of 234°-237°.

reactant | 1-acetyl-5-fluorouracil | 3.44 g | C(C)(=O)N1C(=O)NC(=O)C(=C1)F | C6H5FN2O3
reactant | sodium hydride | 0.80 g | [H-].[Na+]
reactant | 3-bromophthalide | 4.69 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
reactant | water | 100 ml | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | N1 -acetyl-N3 -phthalidyl-5-fluorouracil | C(C)(=O)N1C(=O)N(C(=O)C(=C1)F)C1OC(=O)C2=CC=CC=C12 | C14H9FN2O5
